### PR TITLE
Conjecture on spectral sets

### PR DESCRIPTION
**Pull request by Sfgangloff**
Closes [#3522](https://github.com/google-deepmind/formal-conjectures/issues/3522)

### Original problem:

Let E ⊂ R be a bounded spectral set. Is its spectrum Λ necessarily rational? More generally, does every spectral E admit some rational spectrum?

### Changes:

FormalConjectures/Wikipedia/SpectralSets.lean
FormalConjecturesForMathlib/Analysis/HarmonicAnalysis/SpectralPairs.lean
FormalConjecturesForMathlib.lean

### CODE REVIEW

File: FormalConjectures/Wikipedia/SpectralSets.lean
Comment (mo271) [inline FormalConjectures/Wikipedia/SpectralSets.lean:1]: https://github.com/google-deepmind/formal-conjectures/pull/3497 just merged, perhaps good to check how the definitions there can be harmonize/re-used

File: FormalConjectures/Wikipedia/SpectralSets.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+$\{ e^{2\pi i \langle \lambda, \cdot \rangle } \}_{\lambda \in \Lambda}$ is an
+orthogonal basis of `L²(Ω, ℂ)`. The set `Λ` is then called a *spectrum* of `Ω` and
+`(Ω, Λ)` is a *spectral pair*.
+
+This file states the conjecture: for a bounded spectral set `E ⊂ ℝ`, every spectrum
+`Λ` of `E` is contained in `ℚ` (i.e., is rational). More generally, every spectral
+set in `ℝᵈ` admits a spectrum contained in `ℚᵈ`.
+
+*References:*
+- [Wikipedia: Spectral set theory](https://en.wikipedia.org/wiki/Spectral_set_theory)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/SpectralSets.lean]: dead link

File: FormalConjectures/Wikipedia/SpectralSets.lean
Comment (Sfgangloff) [reply FormalConjectures/Wikipedia/SpectralSets.lean:1]: I re-used all the definitions, so removed the additional file FormalConjecturesForMathlib/Analysis/HarmonicAnalysis/SpectralPairs.lean.

**Comment by Sfgangloff** [comment]
-awaiting-author

File: FormalConjectures/Wikipedia/SpectralSets.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+/--
+**Spectral set conjecture (rationality of the spectrum).**
+For every bounded spectral subset `E ⊂ ℝ`, every spectrum `Λ` of `E` is rational,
+i.e. contained in `ℚ`.
+-/
+@[category research open, AMS 28 42 43]
+theorem spectrum_is_rational :
+    answer(sorry) ↔ ∀ E : Set (Fin 1 → ℝ), Bornology.IsBounded E → ∀ Λ : Set (Fin 1 → ℝ),
+    spectralPair E Λ → IsRational Λ := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/SpectralSets.lean:58]:
```lean
lemma Lp_subsingleton_of_zero_measure {μ : Measure (Fin 1 → ℝ)} (h : μ = 0) :
    Subsingleton (Lp ℂ 2 μ) := by
  subst h
  constructor
  intro f g
  ext1
  rw [ae_zero]
  exact Filter.eventually_bot

lemma empty_set_spectralPair (Λ : Set (Fin 1 → ℝ)) :
    spectralPair (∅ : Set (Fin 1 → ℝ)) Λ := by
  rw [spectralPair]
  refine ⟨?_, ?_⟩
  · simp
  · dsimp only
    have h_fin : volume (∅ : Set (Fin 1 → ℝ)) ≠ ⊤ := by simp
    haveI : Subsingleton (Lp ℂ 2 (volume.restrict (∅ : Set (Fin 1 → ℝ)))) :=
      Lp_subsingleton_of_zero_measure Measure.restrict_empty
    constructor
    · intro ξ₁ _ ξ₂ _ _
      simp [Subsingleton.elim _ (0 : Lp ℂ 2 (volume.restrict ∅))]
    · have : (Submodule.topologicalClosure (Submodule.span ℂ (Set.range fun (ξ : Λ) ↦
        MemLp.toLp (exponentialCharacter ξ.1) (exponentialCharacter_memLp h_fin ξ.1)))) = ⊤ := by
        ext x
        simp [Subsingleton.elim x 0]
      exact this

def irrationalSingleton : Set (Fin 1 → ℝ) := {fun _ => Real.pi}

lemma not_isRational_irrationalSingleton (h_pi : Irrational Real.pi) :
    ¬ IsRational irrationalSingleton := by
  intro h
  have h_mem : (fun _ => Real.pi) ∈ irrationalSingleton := by simp [irrationalSingleton]
  have h_coord := h (fun _ => Real.pi) h_mem 0
  rcases h_coord with ⟨q, h_q⟩
  exact h_pi ⟨q, h_q⟩

/--
**Spectral set conjecture (rationality of the spectrum).**
For every bounded spectral subset `E ⊂ ℝ`, every spectrum `Λ` of `E` is rational,
i.e. contained in `ℚ`.
-/
@[category research open, AMS 28 42 43]
theorem spectrum_is_rational :
    answer(False) ↔ ∀ E : Set (Fin 1 → ℝ), Bornology.IsBounded E → ∀ Λ : Set (Fin 1 → ℝ),
    spectralPair E Λ → IsRational Λ := by
  have h_pi : Irrational Real.pi := irrational_pi
  constructor
  · intro h; exact h.elim
  · intro h_conj
    have h_empty_bounded : Bornology.IsBounded (∅ : Set (Fin 1 → ℝ)) := Bornology.isBounded_empty
    have h_empty_spectral := empty_set_spectralPair irrationalSingleton
    have h_rat := h_conj ∅ h_empty_bounded irrationalSingleton h_empty_spectral
    exact not_isRational_irrationalSingleton h_pi h_rat
```
can be disproved. there are potentially three problems:

### A. The Empty-Set Counterexample (Vacuous Totality)
When $E = \emptyset$, the Lebesgue measure is 0 and the Hilbert space $L^2(E)$ is the trivial space $\{0\}$. 
- Any exponential character in $L^2(0)$ is equal to $0$.
- Thus, the orthogonality and completeness conditions for `spectralPair E Λ` hold vacuously for **any** subset $\Lambda \subset \mathbb{R}$, including non-rational ones (e.g., $\Lambda = \{\sqrt{2}\}$).
- Since $\emptyset$ is bounded, this trivially disproves the current theorem.

### B. Scaling Counterexample
If $(E, \Lambda)$ is a spectral pair, then for any scale factor $s > 0$, $(sE, s^{-1}\Lambda)$ is also a spectral pair. 
- For the interval $E = [0, 1]$, the standard spectrum is $\Lambda = \mathbb{Z} \subset \mathbb{Q}$.
- If we scale this to $E' = [0, \sqrt{2}]$, its spectrum scales to $\Lambda' = \frac{1}{\sqrt{2}}\mathbb{Z}$.
- Since $\frac{1}{\sqrt{2}}$ is irrational, $\Lambda'$ contains irrational frequencies, even though $E'$ is a bounded spectral set of positive measure.

### C. Translation Counterexample
For any spectral pair $(E, \Lambda)$ and any shift vector $c \in \mathbb{R}^d$, $(E, \Lambda + c)$ is also a spectral pair. 
- Shifting the spectrum of $E = [0, 1]$ by $c = \sqrt{2}$ gives the spectrum $\mathbb{Z} + \sqrt{2}$, which contains only irrational numbers.


To resolve these empty-set, scaling, and translation issues, the standard conjecture (proposed by **Lagarias and Wang**) restricts the set to **measure 1** and asks whether it **admits** at least one rational spectrum:

> **Lagarias-Wang Conjecture:** Every bounded spectral set $E \subset \mathbb{R}^d$ of Lebesgue measure 1 admits a rational spectrum.

### Dimension 1 vs. High Dimensions
This conjecture has different statuses depending on the dimension, it seems, can you mention the known results to distinguish between what is known and what is conjecture?

**Review by mo271 — COMMENTED** [review]
Thanks! Left a long comment including a disproof
